US04455315
A solution of 16.7 g (0.1 mole) of 2,3-dichloromaleic anhydride in 70 ml of toluene is heated to boiling. A solution of 15.9 g (0.1 mole) of p-difluoromethoxyaniline in 30 ml of toluene is added dropwise to it over 20 minutes with stirring. Thereafter, the resulting solution is refluxed until water is no longer distilled. This requires about 2 hours. The mixture is cooled to room temperature to precipitate crystals. The precipitated crystals are filtered off and washed with hexane to obtain 29.2 g of 2,3-dichloro-N-(p-difluoromethoxyphenyl)maleimide melting at 217.5°-218° C. in the form of light yellow plate crystals.

reactant | 2,3-dichloromaleic anhydride | 0.1 mole, 16.7 g | Cl/C=1/C(=O)OC(\C1\Cl)=O | C4Cl2O3
reactant | p-difluoromethoxyaniline | 0.1 mole, 15.9 g | FC(OC1=CC=C(N)C=C1)F | C7H7F2NO
reactant | water | O | H2O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dichloro-N-(p-difluoromethoxyphenyl)maleimide | 29.2 g | ClC=1C(=O)N(C(C1Cl)=O)C1=CC=C(C=C1)OC(F)F | C11H5Cl2F2NO3
